US05006567
(d) Acetophenone phenylhydrazone
Phenylhydrazine (10.8 g, 0.10 mole) is added to 20 g (0.10 mole) of acetophenone with stirring at about 15° C. The reaction produces a slight exotherm and the solution solidifies. The title product is allowed to sit for about 12 hours at room temperature and is then used without further purification.

reactant | Phenylhydrazine | 0.10 mole, 10.8 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | acetophenone | 0.10 mole, 20 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
product | Acetophenone phenylhydrazone | C1(=CC=CC=C1)NN=C(C)C1=CC=CC=C1 | C14H14N2
